US03981886
2-Amino-7-chloro-1,3-bis[(3-methylphenylthio)methyl]-1H-benzimidazol-3-ium chloride
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-7-chlorobenzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 3-methylphenyl chloromethyl sulfide, the title compound is obtained.

reactant | 2-amino-7-chlorobenzimidazole | NC=1NC2=C(N1)C(=CC=C2)Cl | C7H6ClN3
reactant | 3-methylphenyl chloromethyl sulfide | ClCSC1=CC(=CC=C1)C | C8H9ClS
product | 2-Amino-7-chloro-1,3-bis[(3-methylphenylthio)methyl]-1H-benzimidazol-3-ium chloride | [Cl-].NC1=[N+](C2=C(N1CSC1=CC(=CC=C1)C)C(=CC=C2)Cl)CSC2=CC(=CC=C2)C | InChI=1S/C23H22ClN3S2.ClH/c1-16-6-3-8-18(12-16)28-14-26-21-11-5-10-20(24)22(21)27(23(26)25)15-29-19-9-4-7-17(2)13-19;/h3-13,25H,14-15H2,1-2H3;1H
